US08377923B2
A 5M aqueous sodium hydroxide solution (3.5 ml) was added to a mixture of 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile monohydrochloride (760 mg) and ethyleneglycol (10 ml), followed by stirring at 130° C. for one hour. The reaction solution was cooled to room temperature and water was added thereto, followed by washing with ethyl acetate. 1M hydrochloric acid was added to the organic layer, followed by extraction with a mixed solvent of chloroform and isopropanol (4:1). The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The resulting solid was washed with ethyl acetate to obtain 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzoic acid (445 mg), as a white solid.

reactant | sodium hydroxide | 5M, 3.5 ml | [OH-].[Na+]
reactant | 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzonitrile monohydrochloride | 760 mg | Cl.ClC=1C=C(C#N)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C
reactant | ethyleneglycol | 10 ml | C(CO)O | C2H6O2
solvent | water | O | H2O
product | 3-chloro-4-{4-methyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}benzoic acid | 445 mg | ClC=1C=C(C(=O)O)C=CC1C1=NN=C(N1C)C(C)(OC1=C(C=C(C=C1F)F)F)C | C19H15ClF3N3O3
